US07868036B2
35 Methyl 8-(2-methoxyethoxy)naphthalene-2-carboxylate
Analogously to method C, 2.02 g of methyl 8-hydroxynaphthalene-2-carboxylate [115399-09-2] and 2.08 g of 1-bromo-2-methoxyethane are reacted. The title compound is identified on the basis of the Rf value.

reactant | methyl 8-hydroxynaphthalene-2-carboxylate | 2.02 g | OC=1C=CC=C2C=CC(=CC12)C(=O)OC | C12H10O3
reactant | 1-bromo-2-methoxyethane | 2.08 g | BrCCOC | C3H7BrO
product | Methyl 8-(2-methoxyethoxy)naphthalene-2-carboxylate | COCCOC=1C=CC=C2C=CC(=CC12)C(=O)OC | C15H16O4
